US06369064B1
a) (1R-trans)-2-(4-Methoxyphenyl)cyclopropane carboxylic acid
To a solution of dichloro(p-cymene)ruthenium (II) dimer (250 mg) and 2,6-bis[(4S)isopropyl-2-oxazolin-2-yl]pyridine (240 mg) in dichloromethane (150 ml) was added 1-methoxy-4-vinylbenzene (25 g). To this solution was added ethyl diazoacetate (5.0 g) in dichloromethane (20 ml) over 6 hours. The solution was maintained at room temperature for 18 hours then diluted with i-hexane (200 ml) and passed through a plug of silica (50 g) washing with i-hexane/dichloromethane (1:1, 250 ml). The filtrate was concentrated and the residue taken into methanol (100 ml). Lithium hydroxide (4.0 g) in water (10 ml) was added and the mixture heated at reflux for 4 hours. The resulting solution was concentrated to give a solid which was washed with 1:1 ether/i-hexane (100 ml). The solid was then triturated with 2N HCl and the white precipitate collected to give the subtitle compound (5.1 g).

reactant | 1-methoxy-4-vinylbenzene | 25 g | COC1=CC=C(C=C1)C=C | C9H10O
reactant | ethyl diazoacetate | 5.0 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | i-hexane | 200 ml | CCCC(C)C | C6H14
catalyst | dichloro(p-cymene)ruthenium (II) dimer | 250 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)C(C)C.Cl[Ru]Cl.Cl[Ru]Cl
catalyst | 2,6-bis[(4S)isopropyl-2-oxazolin-2-yl]pyridine | 240 mg | C(C)(C)[C@@H]1N=C(OC1)C1=NC(=CC=C1)C=1OC[C@@H](N1)C(C)C | C17H23N3O2
product | (1R-trans)-2-(4-Methoxyphenyl)cyclopropane carboxylic acid | 5.1 g | COC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C11H12O3
